US07179801B2
5-Amino-4-aminomethyl-1-(2-hydroxyethyl)-1H-pyrazole dihydrochloride (105 g) was dissolved in a mixture of tetrahydrofuran (1700 ml) and water (170 ml), and the pH of the solution was adjusted to 9 with 3N aqueous sodium hydroxide solution. To the solution was added dropwise a solution of di-tert-butyl dicarbonate (173 g) in tetrahydrofuran (860 ml), while 3N aqueous sodium hydroxide solution was added to keep the pH of the reaction mixture 8.5–9.0. The stirring was continued for another 1 hour. The reaction mixture was extracted with ethyl acetate. The organic layer was washed with brine, dried over magnesium sulfate, filtered, and evaporated in vacuo. The residue was triturated with diisopropyl ether. The precipitate was collected by filtration on a glass filter, washed with diisopropyl ether and dried in vacuo to give 5-amino-4-(tert-butoxycarbonylaminomethyl)-1-(2-hydroxyethyl)-1H-pyrazole (118 g). 1H-NMR(DMSO-d6) δ1.37 (9H, s), 3.58–3.66 (2H, m), 3.78 (2H, d, J=6.0 Hz), 3.88 (2H, t, J=6.1 Hz), 4.88 (1H, t, J=5.1 Hz), 4.97 (2H, br s), 6.96 (1H, s), 6.95–7.10 (1H, m)

reactant | 5-Amino-4-aminomethyl-1-(2-hydroxyethyl)-1H-pyrazole dihydrochloride | 105 g | Cl.Cl.NC1=C(C=NN1CCO)CN
reactant | sodium hydroxide | 3N | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 173 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | sodium hydroxide | 3N | [OH-].[Na+]
solvent | tetrahydrofuran | 1700 ml | O1CCCC1 | C4H8O
solvent | water | 170 ml | O | H2O
solvent | tetrahydrofuran | 860 ml | O1CCCC1 | C4H8O
product | 5-amino-4-(tert-butoxycarbonylaminomethyl)-1-(2-hydroxyethyl)-1H-pyrazole | 118 g | NC1=C(C=NN1CCO)CNC(=O)OC(C)(C)C | C11H20N4O3
